US08372823B2
Methyl 6-(2-(3-(4′-(piperidin-1-ylmethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate (11 mg, 0.022 mmol) was dissolved in THF/H2O (3:2, 2 mL) and LiOH (1.5 mg, 0.065 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 20 min before the addition of aqueous 1 N HCl to pH 4. The reaction solution was diluted with CH2Cl2 and the organic and aqueous layers were separated. The aqueous layer was made basic to pH 8 with the addition of saturated aqueous NaHCO3 and extracted with CH2Cl2. The organic phases were combined, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by tritration in ether to provide 6-(2-(3-(4′-(piperidin-1-ylmethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylic acid as a white solid (4 mg, 38%): 1H NMR (CDCl3, 600 MHz) δ 8.22 (d, 1H, J=5.7 Hz), 8.05-8.01 (m, 3H), 7.63 (d, 2H, J=8.0 Hz), 7.58 (d, 2H, J=8.0 Hz), 7.47 (d, 2H, J=8.0 Hz), 7.33 (d, 2H, J=8.0 Hz), 4.20 (s, 2H), 3.50 (t, 21-1, J=7.5 Hz), 3.15 (t, 2H, J=7.4 Hz), 2.15-1.95 (m, 10H); 13C NMR (CDCl3, 150 MHz) δ 187.2, 165.8, 157.4, 152.1, 145.4, 142.4, 140.1, 138.9, 138.0, 131.9, 129.0, 128.0, 127.6, 127.3, 127.2, 124.4, 123.2, 60.5, 52.6, 40.5, 29.4, 22.6, 22.2; HR ESI-TOF m/z 496.2227 (M+H+, C30H29N3O4, requires 496.2231).

reactant | Methyl 6-(2-(3-(4′-(piperidin-1-ylmethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 0.022 mmol, 11 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C31H31N3O4
reactant | LiOH | 0.065 mmol, 1.5 mg | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF H2O | 2 mL | C1CCOC1.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-(2-(3-(4′-(piperidin-1-ylmethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylic acid | 4 mg, 38% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)O | C30H29N3O4
